Simple Thermal VCSEL Diode (Mena et al. Model)
* Time-marching Transient analysis "tran2" with a current pulse input
**********************************************************************

.tran2 tstop=5n tstep=.005n im=0 out_steps=1 

vpulse:vs  1 0 v1=1m v2=15m  td=0n  tr=.1n  tf=.1n  pw=4n  per=5n

*circuit to convert current to voltage since
*fREEDA does not have a current pulse
vsource:vp 1 11 vac=0
g:g1 11 2 0 0 g=-1 ri=1e12 ro=1e12

vsource:vcurrf 2 3 vac=0v

vcsel:ld1 3 0 4 "nref" 5 "tref" 6 "oref" 7 "pref" 8 "lref" 
*+etai=1 beta=1e-6 tn=5e-9 k=2.6e-8 g0=1.6e4 n0= 1.654e7 tp=2.064e-12
*+a0=-2.734e-4 a1=-2.125e-5 a2=1.837e-7 a3=3.183e-10 a4=0 rho=2.4e-9
*+n=3.5 lambda0=863e-9 rth=9.8e3 tth=1e-6 t0=25

open:o1 4 "nref"
*r:rnn 4 "nref" r=1

open:o2 5 "tref"
*r:rth 5 55 r=2.6e3
*c:cth 5 55 c=0.384615n
*vsource:vt0 55 "tref" vdc=20

open:o3 6 "oref"
*r:roo 6 "oref" r=1

*open:o4 7 "pref"
r:rpp 7 "pref" r=1
*open:o5 8 "lref"
r:rll 8 "lref" r=1

.ref "nref"
.ref "tref"
.ref "oref"
.ref "pref"
.ref "lref"

.out plot term 3 vt in "SVCSELD_v_T0_20_pulse_freeda"
.out plot term 4 vt in "SVCSELD_n_T0_20_pulse_freeda"
.out plot term 5 vt in "SVCSELD_t_T0_20_pulse_freeda"
.out plot term 6 vt in "SVCSELD_o_T0_20_pulse_freeda"
.out plot term 7 vt in "SVCSELD_p_T0_20_pulse_freeda"
.out plot term 8 vt in "SVCSELD_l_T0_20_pulse_freeda"
.end
