**** mosfet dc characteristic ****

.dc sweep="vsource:vd" start=0 stop=-1.6 step=-0.01 

bsim3psoi5t1:m1 d g s e b w=10e-6 l=0.25e-6 
vsource:vd d 0 vdc=-3.0
vsource:vs s 0 vdc=0.0
vsource:ve e 0 vdc=0.0
vsource:vb b 0 vdc=0.0
vsource:vg g 0 vdc=-1.5

.out plot element "bsim3psoi5t1:m1" 0 it in "out1.dc"

.end





